US07846960B2
Sodium hydride (60% in mineral oil, 30 mg, 0.75 mmol) is added to a solution of {4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amine (0.31 g, 0.75 mmol) and 4-bromomethyl-2-methoxy-benzoic acid methyl ester (0.320 g, 1.23 mmol) in DMF (3 mL) at room temperature. The reaction is heated to 40° C. for 2 h. The mixture is diluted with water and is extracted with ethyl acetate. The combined organic layers are washed with brine and dried over MgSO4. The crude residue is purified via radial chromatography (2 mm plate, 20 to 40 THF-heptane) to afford 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic acid methyl ester (303 mg, 68%). ES/MS m/e 596.0 (M+1).

reactant | Sodium hydride | 0.75 mmol, 30 mg | [H-].[Na+]
reactant | {4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amine | 0.75 mmol, 0.31 g | C1(CC1)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC(=C(C=C1)NC)C | C22H22F3N3O2
reactant | 4-bromomethyl-2-methoxy-benzoic acid methyl ester | 1.23 mmol, 0.320 g | COC(C1=C(C=C(C=C1)CBr)OC)=O | C10H11BrO3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic acid methyl ester | 303 mg, 68% | COC(C1=C(C=C(C=C1)CN(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F)C)OC)=O | C32H32F3N3O5
